US07276516B2
Add sodium borohydride (23 mg, 0.601 mmol) to a 0° C. solution of N-(4-fluoro-benzyl)-4-[3-(3-oxo-cyclopentyl)-indole-1-sulfonyl]-benzamide (295 mg, 0.601 mmol) in MeOH (7 ml) under N2. Stir for 30 min and them warm to room temperature. Stir for 18 hours. Add a small amount of water to quench reaction and then remove MeOH on rotovap. Add EtOAc and water and extract the product into organics. Separate, and dry organics over MgSO4. Condense organics on rotovap and then purify by silica gel chromatography to give N-(4-fluoro-benzyl)-4-[3-(3-hydroxy-cyclopentyl)-indole-1-sulfonyl]-benzamide (205 mg, 69% yield) as a light orange solid. Mass Spectrum (m/e): 493.01 (MH+).

reactant | sodium borohydride | 0.601 mmol, 23 mg | [BH4-].[Na+]
reactant | N-(4-fluoro-benzyl)-4-[3-(3-oxo-cyclopentyl)-indole-1-sulfonyl]-benzamide | 0.601 mmol, 295 mg | FC1=CC=C(CNC(C2=CC=C(C=C2)S(=O)(=O)N2C=C(C3=CC=CC=C23)C2CC(CC2)=O)=O)C=C1 | C27H23FN2O4S
reactant | water | O | H2O
solvent | MeOH | 7 ml | CO | CH4O
product | N-(4-fluoro-benzyl)-4-[3-(3-hydroxy-cyclopentyl)-indole-1-sulfonyl]-benzamide | 205 mg, 69% yield | FC1=CC=C(CNC(C2=CC=C(C=C2)S(=O)(=O)N2C=C(C3=CC=CC=C23)C2CC(CC2)O)=O)C=C1 | C27H25FN2O4S
